US05210092
To a suspension of 1-(4-ethoxycarbonylphenyl)-5-methylpyrrole-2-carbonitrile (1.76 g) and silica gel (8.0 g, Mallinckrodt) in tetrachloromethane (26 ml) was added dropwise sulfuryl chloride (760 μl) at 5° C. under nitrogen atmosphere. The suspension was stirred at 5° C. for one hour and then at ambient temperature for half an hour. The mixture was filtered off and washed with a little amount of tetrachloromethane. The filtrate was concentrated in vacuo and the residue was purified by column chromatography on silica gel (elution by ethyl acetate/n-hexane=1/7) to yield 4-chloro-1-(4-ethoxycarbonylphenyl)-5-methylpyrrole-2-carbonitrile (1.36 g).

reactant | 1-(4-ethoxycarbonylphenyl)-5-methylpyrrole-2-carbonitrile | 1.76 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC=C1C)C#N | C15H14N2O2
reactant | sulfuryl chloride | 760 μl | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | tetrachloromethane | 26 ml | ClC(Cl)(Cl)Cl | CCl4
product | 4-chloro-1-(4-ethoxycarbonylphenyl)-5-methylpyrrole-2-carbonitrile | 1.36 g | ClC=1C=C(N(C1C)C1=CC=C(C=C1)C(=O)OCC)C#N | C15H13ClN2O2
